US08076359B2
Step 4: 4-{4-[2-(2,6-Dichloro-4-methylphenoxy)ethoxy]phenyl}piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester
A mixture of compound 4-[4-(2-Hydroxyethoxy)phenyl]piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (5.50 g, 15 mmol), 2,6-dichloro-p-cresol (3.08 g, 18 mmol), azodicarboxylic dipiperidine (7.31 g, 29 mmol) and PBu3 (14 mL, 58 mmol) in toluene (150 mL) was heated to 50° C. for 16 h. The mixture was allowed to cool to rt, filtered, and the precipitate was washed with toluene. The filtrate was diluted with EtOAc, and washed with water (2×) and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 0:1→1:9→2:8) yielded the compound as a colorless oil (7.3 g, 90%). LC-MS: tR=1.18 min, ES+=538.34.

reactant | 4-[4-(2-Hydroxyethoxy)phenyl]piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 15 mmol, 5.50 g | COC(=O)C1CN(CCC1C1=CC=C(C=C1)OCCO)C(=O)OC(C)(C)C | C20H29NO6
reactant | 2,6-dichloro-p-cresol | 18 mmol, 3.08 g | ClC1=CC(=CC(=C1O)Cl)C | C7H6Cl2O
reactant | PBu3 | 58 mmol, 14 mL | P(CCCC)(CCCC)CCCC | C12H27P
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 4-{4-[2-(2,6-Dichloro-4-methylphenoxy)ethoxy]phenyl}piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 7.3 g, 90% | COC(=O)C1CN(CCC1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)C(=O)OC(C)(C)C | C27H33Cl2NO6
